US07863315B2
Preparation of 5-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-pentanoic acid
5-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-pentanoic acid methyl ester (441 mg, 1 mmol) and 300 ml of CH3OH were stirred at room temperature while 25 ml of 4 N solution of LiOH in H2O was added. The mixture was stirred for 24 hours at room temperature. The mixture is neutralized with concentrated hydrochloric acid to pH 7 and evaporated under vacuum to remove methanol. The residue was adjusted to pH 3 with concentrated hydrochloric acid. The solids were collected by vacuum filtration, washed with water and dried under vacuum to give the title compound (167 mg, 39% yield) as a red solid. LC-MS (m/z) 428 (M+1).

reactant | 5-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-pentanoic acid methyl ester | 1 mmol, 441 mg | COC(CCCCNC(=O)C1=C(NC(=C1C)C=NN=C1C(NC2=CC=C(C=C12)F)=O)C)=O | C22H24FN5O4
reactant | CH3OH | 300 ml | CO | CH4O
reactant | LiOH | [Li+].[OH-]
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | O | H2O
product | 5-(5-(((5-fluoro-2-oxoindolin-3-ylidene)hydrazono)methyl)-2,4-dimethyl-1H-pyrrole-3-carboxamido)-pentanoic acid | 167 mg, 39% yield | FC=1C=C2C(C(NC2=CC1)=O)=NN=CC1=C(C(=C(N1)C)C(=O)NCCCCC(=O)O)C | C21H22FN5O4
